US09422236B2
Step-2 Preparation of 5-Bromo-2-methylsulfanylmethyl-pyridine
To the stirred solution of 5-Bromo-2-chloromethyl-pyridine (3.5 gm, 16.99 mmol) in DMF (25 mL) at 0° C. is added Sodium thiomethoxide (1.31 gm, 18.68 mmol) resulting reaction mixture is stirred at 0° C. for 2 h. After completion quenched with water and extracted with ethyl acetate (3×100 mL). The Combined organic layer is washed with brine and organic layer dried over sodium sulphate, evaporate under reduced pressure. The crude is purified by column chromatography using silica 100-200 mesh using 10% EtOAc: Hexane as eluent to afford title compound (3 g) as brown colored liquid. 1NMR (400 MHz, DMSO) δ: 2.00 (s, 3H), 3.75 (s, 2H), 7.39 (d, J=8.32 Hz, 1H), 7.99-8.02 (dd, J1=2.44 Hz, J2=8.32 Hz, 1H), 8.60 (d, J=2.28 Hz, 1H). LC-MS (m/z): M+H=220.1.

reactant | 5-Bromo-2-chloromethyl-pyridine | 16.99 mmol, 3.5 gm | BrC=1C=CC(=NC1)CCl | C6H5BrClN
reactant | Sodium thiomethoxide | 18.68 mmol, 1.31 gm | C[S-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-methylsulfanylmethyl-pyridine | 3 g | BrC=1C=CC(=NC1)CSC | C7H8BrNS
